US08487113B2
To a solution of 3.0 g of dichloroacetic acid in 5 ml of isopropyl alcohol, 3.0 g of tizanidine base (99.15% HPLC) are added. After short heating to boil a solution results, from which, after addition of ethyl acetate, a crystalline precipitated product starts to separate. After cooling to 0 to 5° C. and aspiration 4.15 g tizanidine dichloroacetate are obtained.

reactant | dichloroacetic acid | 3.0 g | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | tizanidine | 3.0 g | C1=CC(=C(C=2C1=NSN2)NC3=NCCN3)Cl | C9H8ClN5S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | isopropyl alcohol | 5 ml | C(C)(C)O | C3H8O
product | tizanidine dichloroacetate | 4.15 g | C1=CC(=C(C=2C1=NSN2)NC3=NCCN3)Cl.ClC(C(=O)[O-])Cl | InChI=1S/C9H8ClN5S.C2H2Cl2O2/c10-5-1-2-6-8(15-16-14-6)7(5)13-9-11-3-4-12-9;3-1(4)2(5)6/h1-2H,3-4H2,(H2,11,12,13);1H,(H,5,6)/p-1
